US08222245B2
4-[7-(5-{3-Cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]butanoic acid
Ethyl 4-[7-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]butanoate (Preparation 80) (0.084 g, 0.171 mmol) was dissolved in Ethanol (2 ml). Then 2N NaOH (1 ml, 2.000 mmol) was added and the reaction left standing at RT for 3 hours. Ethanol was removed by evaporation and the resulting residue dissolved in EtOAc and water, acidified with acetic acid and the phases separated. The organic phase was dried (MgSO4), evaporated and triturated with ether. Drying under vacuum overnight at 50° C. yielded the title compound (22 mg) as a white solid. δH (d6DMSO, 400 MHz): 1.37 (6H, d), 1.66 (2H, t), 2.22 (2H, t), 2.45 (2H, m), 3.01 (2H, m), 3.82 (2H, s), 4.07 (2H, m), 4.95 (1H, m), 7.14 (1H, d), 7.54 (1H, d), 7.89 (1H, dd), 7.96 (1H, d), 8.38 (1H, dd), 8.50 (1H, d); MS (ES): C25H26N4O5 requires 462; found 463 [M+H]+.

reactant | Ethyl 4-[7-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]butanoate | 0.171 mmol, 0.084 g | C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC2=C(CN(CCO2)CCCC(=O)OCC)C1 | C27H30N4O5
reactant | NaOH | 2.000 mmol, 2N, 1 ml | [OH-].[Na+]
solvent | Ethanol | 2 ml | C(C)O | C2H6O
product | 4-[7-(5-{3-Cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]butanoic acid | 22 mg | C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC2=C(CN(CCO2)CCCC(=O)O)C1 | C25H26N4O5
